* ------------------------------------------------------------ *
*
* Original models from COlorado Power Electronic Center (Copec)
* http://ece-www.colorado.edu/~pwrelect
* Models translated by Christophe BASSO, Toulouse (FRANCE)
* These voltage-mode models automatically toggle between DCM and CCM
* Please report bugs to CBASSO@WANADOO.FR
* OrCAD PSpice compatible
* Last modified: June 28th 2004
*
* CCM-DCM1 works for converters without transformers (BUCK, BOOST...)
* CCM-DCM2 works for converters including a transformer (FLYBACK...)
*
* ------------------------------------------------------------ *
*******
.SUBCKT CCM-DCM1 1  2  3  4 CTRL params: FS=100k L=75u
Xd CTRL 5 limit params: clampH=0.95 clampL=16m
Vd 1 1x
Et 1x 2 Value = { (1-V(u))*V(3,4)/(V(u)+1u) }
Gd 4 3 Value = { (1-V(u))*I(Vd)/(V(u)+1u) }
Ga 0 a Value = { IF ( I(Vd) > 0, I(Vd), 0 ) }
Va a b
Rdum1 b 0 10
Eu1 100 0 Value = { V(5) }
Eu2 20X 0 Value = { V(5)*V(5)/((V(5)*V(5)+2*{L}*{FS}*I(Vd)/V(3,4))+1u) }
Xd2 20X 5 200 limit2
* Xd2 20X 200 limit params: clampH=0.99 clampL=7m
D1 200 u DN
D2 100 u DN
.model DN D N=0.01 RS=100m
.ENDS
********
.SUBCKT CCM-DCM2 1  2  3  4  CTRL params: FS=100k L=75u N=250m
Xd CTRL 5 limit params: clampH=0.95 clampL=16m
Vd 1 1x
Et 1x 2 Value = { (1-V(u))*V(3,4)/(V(u)+1u)/{N} }
Gd 4 3 Value = { (1-V(u))*I(Vd)/(V(u)+1u)/{N} }
Ga 0 a Value = { IF (  I(Vd) > 0, I(Vd), 0 ) }
Va a b
Ra b 0 10
Eu1 100 0 Value = { V(5) }
Eu2 20X 0 Value = { V(5)*V(5)/((V(5)*V(5)+2*{L}*{N}*{FS}*I(Va)/V(3,4))+1u) }
Xd2 20X 5 200 limit2
* Xd2 20X 200 limit params: clampH=0.99 clampL=7m
D1 200 u DN
D2 100 u DN
RD u 0 100k
.MODEL DN D N=0.01 RS=100m
.ENDS
********
.subckt limit d dc params: clampH=0.99 clampL=16m
Gd 0 dc VALUE = { V(d)*100u }
Rdc dc 0 10k
V1 clpn 0 {clampL}
V2 clpp 0 {clampH}
D1 clpn dc dclamp
D2 dc clpp dclamp
.model dclamp d n=0.01 rs=100m
.ENDS
********
.subckt limit2 d2nc d d2c
*
Gd 0 d2c d2nc 0 100u
Rdc d2c 0 10k
V1 clpn 0 7m
E2 clpp 0 Value = { 1-V(d) }
D1 clpn d2c dclamp
D2 d2c clpp dclamp
.model dclamp d n=0.01 rs=100m
.ENDS
********
.subckt CPM ctr current 1 2 d
+params: L=100e-6 fs=1e5 va=0.5 Rf=0.1
*
* generate d2 for CCM/DCM
Ed2 d2 0 table 
+ {MIN(
+ L*fs*(v(ctr)-va*v(d))/Rf/(v(2)),
+ 1-v(d)
+ )} (0,0) (1,1)
* 
Em1 m1 0 value={Rf*v(1)/L/fs}
Em2 m2 0 value={Rf*v(2)/L/fs}
*
* generate duty-ratio d (valid CCM and DCM operation)
*
Eduty d 0 table 
+ {
+ 2*(v(ctr)*(v(d)+v(d2))
+ -v(current)-v(m2)*v(d2)*v(d2)/2)
+ /(v(m1)*v(d)+2*va*(v(d)+v(d2)))
+ } (0.01,0.01) (0.99,0.99)
*
.ends ; end of subcircuit CPM  
********
.subckt ccm-dcm10 1  2  3  4  5
+ params: L=1 fs=1E6
Et 1 2 value={(1-v(u))*v(3,4)/v(u)}
Gd 4 3 value={(1-v(u))*i(Et)/v(u)}
Ga 0 a value={MAX(i(Et),0)}
Va a b
Rdummy b 0 1k
Eu u 0 table {MAX(v(5),
+ v(5)*v(5)/(v(5)*v(5)+2*L*fs*i(Et)/v(3,4)))} (0 0) (1 1)
.ends
********



